US07741341B2
59.0 mg (0.28 mmol) (4-Amino-3-fluoro-phenyl)-pyrrolidin-1-yl-methanone were dissolved in 6 mL THF and 3 mL water. 238.0 mg (2.83 mmol) NaHCO3 were added. Finally 75.6 mg (0.26 mmol) 2-Trichloromethyl-1H-benzoimidazole-4-carboxylic acid methyl ester were added and the resulting mixture was stirred vigorously for 3 h at room temperature. The mixture was diluted with CH2Cl2 and washed with a saturated NaHCO3-solution and with brine. The organic layer was dried over anhydrous MgSO4 and concentrated under reduced pressure. Final purification by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) gave pure 2-[2-Fluoro-4-(pyrrolidine-1-carbonyl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester in form of a colorless amorphous solid. Yield: 69 mg MS (ES+): m/e=411.

reactant | (4-Amino-3-fluoro-phenyl)-pyrrolidin-1-yl-methanone | 0.28 mmol, 59.0 mg | NC1=C(C=C(C=C1)C(=O)N1CCCC1)F | C11H13FN2O
reactant | NaHCO3 | 2.83 mmol, 238.0 mg | C(=O)(O)[O-].[Na+]
reactant | 2-Trichloromethyl-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.26 mmol, 75.6 mg | COC(=O)C1=CC=CC=2NC(=NC21)C(Cl)(Cl)Cl | C10H7Cl3N2O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[2-Fluoro-4-(pyrrolidine-1-carbonyl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2NC(=NC21)C(NC2=C(C=C(C=C2)C(=O)N2CCCC2)F)=O | C21H19FN4O4
